US05430153
3-Acetyl-4-(β-methylphenethylamino)-8-phenyl-2-quinolinone (565)
3-Acetyl-4-methylsulfoxy-8-phenyl-2-quinolinone (3.25g, 0.01 mol) and β-methylphenethylamine (1.35g, 0.01 mol) were used, but the reaction was carried out as the above process of example 37 to obtain the desired product (3.29g, yield: 83%).

reactant | 3-Acetyl-4-methylsulfoxy-8-phenyl-2-quinolinone | 0.01 mol, 3.25g | C(C)(=O)C=1C(NC2=C(C=CC(=C2C1C)OS(=O)(=O)O)C1=CC=CC=C1)=O | C18H15NO6S
reactant | β-methylphenethylamine | 0.01 mol, 1.35g | CC(CN)C1=CC=CC=C1 | C9H13N
product | 3-Acetyl-4-(β-methylphenethylamino)-8-phenyl-2-quinolinone | 3.29g, yield: 83% | C(C)(=O)C=1C(NC2=C(C=CC=C2C1NCC(C1=CC=CC=C1)C)C1=CC=CC=C1)=O | C26H24N2O2
